US04407745
In a mixed liquid of 100 ml of acetic acid, 100 ml of 25% HBR-acetic acid and 3.4 g of anisole is dissolved 33.5 g (30.9 millimoles) of Z-Arg(Tos)-Leu-Leu-Gln-Gly-Leu-Val-NH2, and the solution is stirred at room temperature for 1.5 hours and is then added to 2.5 l of ether. The formed precipitate is recovered by decantation and dissolved in 300 ml of ethanol. The solution is added to ether and an HBr salt of the Z-compound is recovered by decantation. Then, the recovered salt (34.5 g, 30.9 millimoles) is dissolved in 400 ml of dimethylformamide, and 6.8 g of N-methylmorpholine is added to the solution under cooling. Then, 14 g (37 millimoles) of crystalline Z-Gln-OSu is added to the mixture, and the mixture is stirred at -5° C. for 2 hours and allowed to stand at room temperature for 2 days. Then, 2 g of N-(2-aminoethylpiperazine) is added to the reaction mixture, and the mixture is stirred for 30 minutes and added to 2.5 l of 1 N HCl. The formed precipitate is recovered by filtration, washed with water, suspended in 400 ml of methanol, stirred and recovered by filtration to obtain 31.5 g of intended Z-Gln-Arg(Tos)-Leu-Leu-Gln-Gly-Leu-Val-NH2 (the yield being 84.2%).

reactant | anisole | 3.4 g | C1(=CC=CC=C1)OC | C7H8O
reactant | Z-Arg(Tos)-Leu-Leu-Gln-Gly-Leu-Val-NH2 | 30.9 millimoles, 33.5 g | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N)C(=O)OCC1=CC=CC=C1 | C51H80N12O12S
reactant | N-methylmorpholine | 6.8 g | CN1CCOCC1 | C5H11NO
reactant | Z-Gln-OSu | 37 millimoles, 14 g | N([C@@H](CCC(N)=O)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C17H19N3O7
reactant | HCl | 1 N, 2.5 l | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | ether | 2.5 l | CCOCC | C4H10O
product | Z-Gln-Arg(Tos)-Leu-Leu-Gln-Gly-Leu-Val-NH2 | 31.5 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N)C(=O)OCC1=CC=CC=C1 | C56H88N14O14S
